US04939261
The starting material is prepared as follows: 4.0 g of trans-2,4-dibenzyl glutaric anhydride is refluxed in 40 ml of ethanol:toluene (3:2) overnight. The reaction mixture is concentrated to yield 4-ethoxycarbonyl-(R*,R*) -2,4-dibenzylbutyric acid as an oil. Oxalyl chloride (3.5 ml) is added to the solution of 4.5 g of 4-ethoxycarbonyl-(R*,R*)-2,4-dibenzylbutyric acid in 10 ml of methylene chloride. The mixture is stirred at room temperature overnight and evaporated to yield 4-ethoxycarbonyl-(R*,R*)-2,4-dibenzylbutyryl chloride, which is used as such without further purification.

reactant | Oxalyl chloride | 3.5 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-ethoxycarbonyl-(R*,R*)-2,4-dibenzylbutyric acid | 4.5 g | C(C)OC(=O)[C@H](C[C@@H](C(=O)O)CC1=CC=CC=C1)CC1=CC=CC=C1 | C21H24O4
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 4-ethoxycarbonyl-(R*,R*)-2,4-dibenzylbutyryl chloride | C(C)OC(=O)[C@H](C[C@@H](C(=O)Cl)CC1=CC=CC=C1)CC1=CC=CC=C1 | C21H23ClO3
